2183-12-21 06:50:00 Physician Resident Progress Note
Chief Complaint: DKA
   24 Hour Events:
   Patient had back pain overnight, resolved with toradol
   Nauseated, and vomited meds
   Increased respiratory requirement -99% on 4L
   Influenza negative
   This morning having more significant throat pain. Unwilling to speak
   secondary to pain.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 3 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-12-21**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.2
C (99
   HR: 104 (104 - 122) bpm
   BP: 109/59(70) {92/48(59) - 109/65(70)} mmHg
   RR: 23 (12 - 23) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,517 mL
                                                                  3,491 mL
   PO:
             TF:
   IVF:
                                                                  2,517 mL
                                                                  3,491 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                      0 mL
   Urine:
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,017 mL
                                                                  3,491 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97% 4L
   ABG: ///13/
   Physical Examination
   GENERAL:  NAD
   HEENT:  NCAT. PERRL. Oropharynx erythematous and edematous. No
   exudates. Tenderness to palpation over larynx. No LAD. No meningismus.
   CARDIAC:  RRR. No murmurs.
   LUNG:  CTAB. No wheezes or crackles. No stridor.
   ABDOMEN:  Soft, NT. ND. No masses. No rebound or guarding.
   EXT:  WWP. No LE edema.
   NEURO:  A+Ox3. Able to move all four extremities.
   DERM:  No rashes
   Labs / Radiology
   234 K/uL
   11.0 g/dL
   143 mg/dL
   0.7 mg/dL
   13 mEq/L
   3.6 mEq/L
   11 mg/dL
   112 mEq/L
   142 mEq/L
   33.0 %
   8.4 K/uL
        [image002.jpg]
                            [**2183-12-20**]  05:11 PM
                            [**2183-12-20**]  10:01 PM
                            [**2183-12-21**]  03:19 AM
   WBC
   13.3
   8.4
   Hct
   34.3
   33.0
   Plt
   234
   234
   Cr
   0.9
   0.8
   0.7
   Glucose
   [**Telephone/Fax (3) 10848**]
   Other labs: Ca++:7.2 mg/dL, Mg++:2.4 mg/dL, PO4:1.7 mg/dL
   Microbiology: Blood cultures pending
   Urine culture pending
   CXR: RML infiltrate
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPOXEMIA
 DIABETIC KETOACIDOSIS (DKA)
   23 yo F with type 1 diabetes who presents with DKA.
   # Right middle lobe infiltrate: Concerning for community acquired
   pnemonia.
   -Levofloxacin 750mg po daily (day 1 of 5)
   # Pharyngitis: Worsened overnight. Patient not taking pos secondary to
   pain. Unable to speak. No stridor. Lungs sound clear. No exudates.
   -send strep throat swab
   -consult ENT
   #  DKA: Precipitants likely pnemonia and pharyngitis. Influenza
   negative.  Glucose in ED 481, with anion gap of 35-
 17.
   -d/c tamiflu
   -f/u cultures
   -IV D5NS with 20mEq K + @ 500cc/hr until AG closes
   -insulin gtt @ 4u/hr until sugars in 200-300 range and AG closes.
   -once sugar 200-250 and AG closes, will switch to lantus 60u [**Telephone/Fax (3) **] with
   sliding scale insulin
   -chem 10 q4 hours
   -[**Last Name (un) 276**] consult this  AM
   .
   # Hypothroidism: Continue synthroid per outpatient regimen.
   .
   # Depression: Continue abilify 25mg po [**Last Name (LF) **], [**First Name3 (LF) **] outpatient regimen.
   .
   # FEN: IVFs / replete lytes prn / NPO
   # PPX:  heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE:  FULL
   # CONTACT:
   # DISPO: ICU
   .
   .
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2183-12-20**] 05:05 PM
   22 Gauge - [**2183-12-20**] 09:30 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2183-12-21 07:44:00 Physician Attending Progress Note
Chief Complaint: I feel like I have DKA
   I saw and examined the patient, and was physically present with Dr.
   [**Last Name (STitle) 10851**] for key portions of the services provided. I agree with the
   housestaff note, including the assessment and plan. I would emphasize
   and add the following points:
   HPI:
   24 Hour Events:
   - Admitted
   - On insulin gtt, IVF
   - Ruled out for flu
   - CXR w/RML infiltrate
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - pending
   Infusions:
   Insulin - Regular - 3 units/hour
   Other ICU medications:
   Hep sc, Insulin gtt
   Other medications:
   Synthroid, abilify
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-12-21**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.2
C (99
   HR: 105 (104 - 122) bpm
   BP: 111/74(81) {92/48(59) - 111/74(81)} mmHg
   RR: 19 (12 - 23) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,517 mL
                                                                  3,944 mL
   PO:
             TF:
   IVF:
                                                                  2,517 mL
                                                                  3,944 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                      0 mL
   Urine:
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,017 mL
                                                                  3,944 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///13/
   Physical Examination
   General Appearance: Obese F unable to speak secondary to throat pain
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, tender diffuse cervical
   adenopathy, swollen uvula
   Cardiovascular: (S1: Normal), (S2: Normal), RRR
   Respiratory / Chest: (Breath Sounds: Crackles in R mid lung field )
   Abdominal: Soft, Non-tender, Bowel sounds present, Not Distended
   Skin:  No rashes
   Neurologic: Attentive, A&Ox3, moving all extremities
   Labs / Radiology
   11.0 g/dL
   234 K/uL
   143 mg/dL
   0.7 mg/dL
   13 mEq/L
   3.6 mEq/L
   11 mg/dL
   112 mEq/L
   142 mEq/L
   33.0 %
   8.4 K/uL
        [image002.jpg]
                            [**2183-12-20**]  05:11 PM
                            [**2183-12-20**]  10:01 PM
                            [**2183-12-21**]  03:19 AM
   WBC
   13.3
   8.4
   Hct
   34.3
   33.0
   Plt
   234
   234
   Cr
   0.9
   0.8
   0.7
   Glucose
   [**Telephone/Fax (3) 10848**]
   Other labs: Ca++:7.2 mg/dL, Mg++:2.4 mg/dL, PO4:1.7 mg/dL
   CXR
 RML infiltrate, ?tracheal narrowing
   Assessment and Plan
 DIABETIC KETOACIDOSIS (DKA):  Secondary to viral illness vs PNA.
   Agree with aggressive IVF resusitation, insulin drip, serial
   electrolytes and replete as needed.
   - IVF w/glucose and potassium.  Unable to take POs reliably as below.
   - Replete lytes
   - Insulin gtt at 3.5 pending gap closure, restart home insulin
   w/overlap after gap closed
   - Notify [**Last Name (un) 276**]
 Sore Throat, cough:  Ruled out for flu by ED.  After volume repletion
   has RML infiltrate, ?PNA. ?upper airway narrowing on CXR, c/o severe
   difficulty swallowing, sore throat.
   - Supplemental O2 as needed
   - Levofloxacin for CAP
   - Strep swab
   - ENT eval
 HYPOTHYROIDISM:  Synthroid when taking po's.
   # Psych
 On home abilify, not taking secondary to throat pain
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Insulin gtt
   Lines:
   20 Gauge - [**2183-12-20**] 05:05 PM
   22 Gauge - [**2183-12-20**] 09:30 PM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Discussed with Mother
   [**Name (NI) 66**] status: Full code
   Disposition : ICU pending gap closure
   Pt is critically ill .
   Total time spent: 30 min

2183-12-22 08:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2183-12-21**] 09:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-12-22**] 08:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.7
C (98.1
   HR: 86 (86 - 105) bpm
   BP: 129/107(112) {105/65(74) - 129/107(112)} mmHg
   RR: 14 (13 - 40) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  6,278 mL
                                                                  1,199 mL
   PO:
                                                                    280 mL
             TF:
   IVF:
                                                                  5,998 mL
                                                                  1,199 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    500 mL
   Urine:
                                                                  1,350 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,928 mL
                                                                    699 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///18/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   196 K/uL
   11.0 g/dL
   129 mg/dL
   0.5 mg/dL
   18 mEq/L
   3.5 mEq/L
   6 mg/dL
   116 mEq/L
   142 mEq/L
   33.5 %
   8.5 K/uL
        [image002.jpg]
                            [**2183-12-20**]  05:11 PM
                            [**2183-12-20**]  10:01 PM
                            [**2183-12-21**]  03:19 AM
                            [**2183-12-21**]  09:16 AM
                            [**2183-12-21**]  02:17 PM
                            [**2183-12-21**]  09:16 PM
                            [**2183-12-22**]  01:58 AM
   WBC
   13.3
   8.4
   8.5
   Hct
   34.3
   33.0
   33.5
   Plt
   [**Telephone/Fax (3) 10861**]
   Cr
   0.9
   0.8
   0.7
   0.7
   0.6
   0.6
   0.5
   Glucose
   [**Telephone/Fax (3) 10862**]27
   65
   320
   129
   Other labs: Ca++:7.4 mg/dL, Mg++:2.2 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPOXEMIA
 DIABETIC KETOACIDOSIS (DKA)
   23 yo F with type 1 diabetes who presents with DKA.
   # Right middle lobe infiltrate: Concerning for community acquired
   pnemonia.
   -Levofloxacin 750mg po daily (day 1 of 5)
   # Pharyngitis: Worsened overnight. Patient not taking pos secondary to
   pain. Unable to speak. No stridor. Lungs sound clear. No exudates.
   -send strep throat swab
   -consult ENT
   #  DKA: Precipitants likely pnemonia and pharyngitis. Influenza
   negative.  Glucose in ED 481, with anion gap of 35-
 17.
   -d/c tamiflu
   -f/u cultures
   -IV D5NS with 20mEq K + @ 500cc/hr until AG closes
   -insulin gtt @ 4u/hr until sugars in 200-300 range and AG closes.
   -once sugar 200-250 and AG closes, will switch to lantus 60u [**Telephone/Fax (3) **] with
   sliding scale insulin
   -chem 10 q4 hours
   -[**Last Name (un) 276**] consult this  AM
   .
   # Hypothroidism: Continue synthroid per outpatient regimen.
   .
   # Depression: Continue abilify 25mg po [**Last Name (LF) **], [**First Name3 (LF) **] outpatient regimen.
   .
   # FEN: IVFs / replete lytes prn / NPO
   # PPX:  heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE:  FULL
   # CONTACT:
   # DISPO: ICU
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2183-12-20**] 05:05 PM
   22 Gauge - [**2183-12-20**] 09:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2183-12-22 10:36:00 Physician Attending Progress Note
Chief Complaint: DKA, throat soreness
   HPI:
   24 Hour Events:
   - Restarted on insulin gtt for widening gap
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-12-22**] 10:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.4
C (99.3
   HR: 86 (85 - 104) bpm
   BP: 122/88(95) {105/66(74) - 132/107(112)} mmHg
   RR: 19 (13 - 40) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  6,278 mL
                                                                  1,382 mL
   PO:
                                                                    280 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  5,998 mL
                                                                  1,322 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    500 mL
   Urine:
                                                                  1,350 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,928 mL
                                                                    882 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///18/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: LLL crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   11.0 g/dL
   196 K/uL
   129 mg/dL
   0.5 mg/dL
   18 mEq/L
   3.5 mEq/L
   6 mg/dL
   116 mEq/L
   142 mEq/L
   33.5 %
   8.5 K/uL
        [image002.jpg]
                            [**2183-12-20**]  05:11 PM
                            [**2183-12-20**]  10:01 PM
                            [**2183-12-21**]  03:19 AM
                            [**2183-12-21**]  09:16 AM
                            [**2183-12-21**]  02:17 PM
                            [**2183-12-21**]  09:16 PM
                            [**2183-12-22**]  01:58 AM
   WBC
   13.3
   8.4
   8.5
   Hct
   34.3
   33.0
   33.5
   Plt
   [**Telephone/Fax (3) 10861**]
   Cr
   0.9
   0.8
   0.7
   0.7
   0.6
   0.6
   0.5
   Glucose
   [**Telephone/Fax (3) 10862**]27
   65
   320
   129
   Other labs: Ca++:7.4 mg/dL, Mg++:2.2 mg/dL, PO4:1.4 mg/dL
   Imaging: CXR - RML infiltrate [**12-21**].
   Microbiology: No new micro.
   Assessment and Plan
   23 y/o female with h/o DM type and hypothyroidism who presented in DKA
   after several days of a sore throat and dry cough.  Initial gap ~40,
   now closed and getting transitioned to insulin [**First Name8 (NamePattern2) **] [**Last Name (un) 276**].
   # DKA:  Secondary to viral illness vs PNA, laryngitis
   - Replete lytes
   - Follow glucoses now that transitioned off gtt
   - RISS - unable to take POs reliably as below
   - [**Last Name (un) 276**] following
   # Laryngitis:  Flu swab negative, but has RML infiltrate on CXR after
   getting hydrated.  S/p ENT evaluation - diffuse swelling and erythema,
   no airway compromise.
   - F/U strep swap, cultures, urine legionella
   - Supplemental O2 as needed
   - Levofloxacin for CAP
   - Repeat CXR given disconnect between RML infiltrates and LLL crackles
    # Hypothryoidism:  On Synthroid.
   # Psych: On Abilify.
   ICU Care
   Nutrition: CLD
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2183-12-20**] 05:05 PM
   22 Gauge - [**2183-12-20**] 09:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : Possible call out later if dexis stable
   Total time spent:  30 minutes